US08859584B2
sodium 3-acetyl-6-(trifluoromethyl)pyridin-2-olate
A solution of 4-ethoxy-1,1,1-trifluoro-3-buten-2-one (4.21 g, 22.5 mmol), EtOH (42 mL), acetoacetamide (2.28 g, 22.5 mmol), and sodium ethoxide (21 weight % in EtOH, 8.41 mL, 22.5 mmol) was heated to 75° C. After 12 hours, the mixture was cooled to room temperature over 30 minutes, stirred for 4 hours, then cooled to <5° C. After 10 minutes, the white slurry was filtered, washing with cold EtOH (5 mL). The white solid was dried in a vacuum oven at 60° C. to provide the title compound (4.39 g, 19.3 mmol, 86% yield).

reactant | 4-ethoxy-1,1,1-trifluoro-3-buten-2-one | 22.5 mmol, 4.21 g | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
reactant | acetoacetamide | 22.5 mmol, 2.28 g | C(CC(=O)C)(=O)N | C4H7NO2
reactant | sodium ethoxide | 22.5 mmol, 8.41 mL | [O-]CC.[Na+]
solvent | EtOH | 42 mL | CCO | C2H6O
product | sodium 3-acetyl-6-(trifluoromethyl)pyridin-2-olate | 19.3 mmol, 4.39 g, 86% yield | C(C)(=O)C=1C(=NC(=CC1)C(F)(F)F)[O-].[Na+] | InChI=1S/C8H6F3NO2.Na/c1-4(13)5-2-3-6(8(9,10)11)12-7(5)14;/h2-3H,1H3,(H,12,14);/q;+1/p-1
